US06982348B2
2) ethyl (2RS,3RS)-3-(5-chloro-2-thienyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate
While stirring zinc chloride (7.76 g, 57.0 mmol) in diethyl ether (150 ml), sodium borohydride (4.31 g, 114 mmol) was added at room temperature, and the mixture was stirred at it was for 2 hrs. The insoluble material of the mixture was removed by filtration and washed with diethyl ether to give a solution of zinc borohydride in diethyl ether. To the obtained solution was added ethyl 3-(5-chloro-2-thienyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate (12.50 g, 28.48 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hrs. To the reaction solution was added dilute hydrochloric acid by small portions to decompose excess zinc borohydride. The mixture was extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−1/1) to give the objective substance.

reactant | ethyl 3-(5-chloro-2-thienyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate | 28.48 mmol, 12.50 g | ClC1=CC=C(S1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C18H15ClF4O4S
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc borohydride | [BH4-].[Zn+2].[BH4-]
product | ethyl (2RS,3RS)-3-(5-chloro-2-thienyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate | ClC1=CC=C(S1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C18H17ClF4O4S
